US07569579B2
N-[((1S,2S)-2-{[4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl]methyl}-1-phenylcyclopropyl)methyl]-N-methylbenzenesulfonamide
N-{[(1S,2S)-2-formyl-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide and 4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidine (incorporating by reference as needed WO 00/39125) were reacted as per Preparation 10 to give the title compound. 1H NMR (300 MHz, DMSO-de) δ 7.69-7.54 (m, 5H), 7.35-7.20 (m, 10H), 4.06 (s, 2H), 3.55 (d, J=13.8 Hz, 1H), 2.97-2.85 (m, 1H), 2.78 (d, J=13.8 Hz, 1H), 2.64-2.59 (m, 1H), 2.53 (s, 3H), 2.27-2.21 (m, 1H), 2.02-1.88 (m, 4H), 1.75-1.61 (m, 2H), 1.48-1.41 (m, 1H), 1.17 (m, 1H), 1.07-1.02 (m, 1H), 0.93-0.89 (m, 1H). ES-LCMS m/z 557.1 (M+H).

reactant | N-{[(1S,2S)-2-formyl-1-phenylcyclopropyl]methyl}-N-methylbenzenesulfonamide | C(=O)[C@@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C18H19NO3S
reactant | 4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidine | C(C1=CC=CC=C1)C1=NOC(=N1)C1CCNCC1 | C14H17N3O
product | N-[((1S,2S)-2-{[4-(3-benzyl-1,2,4-oxadiazol-5-yl)piperidin-1-yl]methyl}-1-phenylcyclopropyl)methyl]-N-methylbenzenesulfonamide | C(C1=CC=CC=C1)C1=NOC(=N1)C1CCN(CC1)C[C@@H]1[C@@](C1)(C1=CC=CC=C1)CN(S(=O)(=O)C1=CC=CC=C1)C | C32H36N4O3S
